US04798620
98% nitric acid (0.71 g) was added dropwise to acetic anhydride (11.3 ml) at a temperature of 0° C. Subsequently a few drops of concentrated sulfuric acid were added thereto as catalyst, and the mixture was stirred for a while at 0° C. 4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one (2.06 g) was added little by little thereto and stirred continuously at 0° C. for 30 minutes. A solution consisting of sodium hydride (10 g) and water (88 ml), cooled previously to 0° C., was added dropwise at 0° C. to neutralize the reaction liquor. The liquor was extracted with methylisobutyl ketone, and the extraction liquor was washed with water and a table salt solution, then dried with anhydrous sodium sulfate. The solvent was distilled off to give the desired 4-cyanomethyl-7-fluoro-6-nitro-2H-1,4-benzoxazin-3(4H)-one (2.39 g). mp. 204°-206° C.

reactant | nitric acid | 0.71 g | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 11.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 2.06 g | C(#N)CN1C(COC2=C1C=CC(=C2)F)=O | C10H7FN2O2
reactant | sodium hydride | 10 g | [H-].[Na+]
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 88 ml | O | H2O
product | 4-cyanomethyl-7-fluoro-6-nitro-2H-1,4-benzoxazin-3(4H)-one | 2.39 g | C(#N)CN1C(COC2=C1C=C(C(=C2)F)[N+](=O)[O-])=O | C10H6FN3O4
